US05726205
(3) trans-O-cyclopropanoyl-4-(4-dimethylaminomethylphenyl)-cyclohexanol
from trans-4-(4-dimethylaminomethylphenyl)-cyclohexanol and cyclopropane carboxylic acid chloride/triethylamine. Colourless wax.

reactant | trans-4-(4-dimethylaminomethylphenyl)-cyclohexanol | CN(C)CC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)O | C15H23NO
reactant | cyclopropane carboxylic acid chloride triethylamine | C1(CC1)C(=O)Cl.C(C)N(CC)CC
product | trans-O-cyclopropanoyl-4-(4-dimethylaminomethylphenyl)-cyclohexanol | C1(CC1)C(=O)O[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CN(C)C | C19H27NO2
